### PR TITLE
[Merged by Bors] - feat: add lemmas about doubly stochastic matrices

### PR DESCRIPTION
**Pull request by dupuisf**
This PR adds a few basic lemmas about doubly stochastic matrices.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/DoublyStochasticMatrix.lean [hunk 1]
```diff
@@ -97,6 +97,7 @@ lemma convex_doublyStochastic : Convex R (doublyStochastic R n : Set (Matrix n n
   simp [add_nonneg, ha, hb, mul_nonneg, hx, hy, sum_add_distrib, ← mul_sum, h]
 
 /-- Any permutation matrix is doubly stochastic. -/
+@[simp, grind .]
 lemma permMatrix_mem_doublyStochastic {σ : Equiv.Perm n} :
     σ.permMatrix R ∈ doublyStochastic R n := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/DoublyStochasticMatrix.lean]: Doesn't this mean that `grind` will add a `σ.permMatrix R ∈ doublyStochastic R n` fact to the context *whenever* it sees `σ : Equiv.Perm n`? That seems a bit much to me, no?

**Review by j-loreaux — COMMENTED** [review]
@dupuisf can I instead interest you in taking over #28708 so we can get that over the line? Probably cleaning up some of the proofs there would be helpful.

File: Mathlib/Analysis/Convex/DoublyStochasticMatrix.lean (hunk 1 above)
Comment (dupuisf) [reply Mathlib/Analysis/Convex/DoublyStochasticMatrix.lean]: No, here's the pattern this generates:
```
permMatrix_mem_doublyStochastic: [@Membership.mem _ (Submonoid _ _) _ (doublyStochastic #7 #6 #5 #4 #3 #2 #1) (@PEquiv.toMatrix _ _ _ _ _ _ (@Equiv.toPEquiv _ _ #0))]
```
So it's quite specific, it pretty much needs to see this exact statement.

File: Mathlib/LinearAlgebra/Matrix/Stochastic.lean [hunk 2]
```diff
@@ -52,7 +52,6 @@ def rowStochastic (R n : Type*) [Fintype n] [DecidableEq n] [Semiring R] [Partia
   one_mem' := by
     simp [zero_le_one_elem]
 
-@[grind =]
 lemma mem_rowStochastic :
```
Comment (dupuisf) [inline Mathlib/LinearAlgebra/Matrix/Stochastic.lean:55]: Turns out this and the corresponding one for `col` were making `grind` very slow.

File: Mathlib/LinearAlgebra/Matrix/Stochastic.lean [hunk 3]
```diff
@@ -226,4 +231,48 @@ lemma transpose_mem_colStochastic_iff_mem_rowStochastic :
...
 
+/-- Reindexing a matrix preserves row-stochasticity. -/
+@[aesop safe apply]
+lemma reindex_mem_rowStochastic {m : Type*} [Fintype m] [DecidableEq m] {M : Matrix n n R}
+    {e₁ e₂ : n ≃ m} (hM : M ∈ rowStochastic R n) : M.reindex e₁ e₂ ∈ rowStochastic R m := by
+  refine ⟨?_, ?_⟩
+  · intro i j
+    simp only [reindex_apply, submatrix_apply]
+    exact nonneg_of_mem_rowStochastic hM
+  · simp [submatrix_mulVec_equiv, hM.2]
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Matrix/Stochastic.lean]:
```suggestion
    {e₁ e₂ : n ≃ m} (hM : M ∈ rowStochastic R n) : M.reindex e₁ e₂ ∈ rowStochastic R m :=
  ⟨fun _ _ ↦ by simpa using nonneg_of_mem_rowStochastic hM, by simp [submatrix_mulVec_equiv, hM.2]⟩
```

File: Mathlib/LinearAlgebra/Matrix/Stochastic.lean [hunk 4]
```diff
@@ -226,4 +231,48 @@ lemma transpose_mem_colStochastic_iff_mem_rowStochastic :
...
+    exact sum_col_of_mem_colStochastic hM (e₂.symm j)
+
+/-- Reindexing a matrix preserves column-stochasticity. -/
+@[grind =]
+lemma reindex_mem_colStochastic_iff {m : Type*} [Fintype m] [DecidableEq m] {M : Matrix n n R}
+    {e₁ e₂ : n ≃ m} : M.reindex e₁ e₂ ∈ colStochastic R m ↔ M ∈ colStochastic R n := by
+  refine ⟨fun h => ?_, reindex_mem_colStochastic⟩
+  have : M = (M.reindex e₁ e₂).reindex e₁.symm e₂.symm := by simp
+  rw [this]
+  exact reindex_mem_colStochastic h
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Matrix/Stochastic.lean]:
```suggestion
/-- Reindexing a matrix preserves column-stochasticity. -/
@[grind =]
lemma reindex_mem_colStochastic_iff {m : Type*} [Fintype m] [DecidableEq m] {M : Matrix n n R}
    {e₁ e₂ : n ≃ m} : M.reindex e₁ e₂ ∈ colStochastic R m ↔ M ∈ colStochastic R n := by
  rw [← transpose_transpose (reindex e₁ e₂ M), transpose_reindex,
    transpose_mem_colStochastic_iff_mem_rowStochastic, reindex_mem_rowStochastic_iff,
    ← transpose_mem_colStochastic_iff_mem_rowStochastic, transpose_transpose]

/-- Reindexing a matrix preserves column-stochasticity. -/
@[aesop safe apply]
alias ⟨_, reindex_mem_colStochastic⟩ := reindex_mem_colStochastic_iff
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
